US07566724B2
In the same manner as in Reference Example 35-(1), allylglycine (285 mg) was reacted with 2,6-difluorobenzoyl chloride (0.374 ml) to obtain 2-(2,6-difluorobenzamido)pent-4-enoic acid (471 mg). (2) In the same manner as in Reference Example 35-(2), thionyl chloride (0.242 ml) was reacted with a solution of 2-(2,6-difluorobenzamido)pent-4-enoic acid (471 mg) in methanol (20 ml) to obtain 2-(2,6-difluorobenzamido)pent-4-enoic acid methyl ester (430 mg).

reactant | thionyl chloride | 0.242 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2,6-difluorobenzamido)pent-4-enoic acid | 471 mg | FC1=C(C(=O)NC(C(=O)O)CC=C)C(=CC=C1)F | C12H11F2NO3
reactant | methanol | 20 ml | CO | CH4O
product | 2-(2,6-difluorobenzamido)pent-4-enoic acid methyl ester | 430 mg | COC(C(CC=C)NC(C1=C(C=CC=C1F)F)=O)=O | C13H13F2NO3
